* PWM_FanControl - SPICE-style netlist (EDA-neutral, source of truth)
* 555 PWM high-side fan controller (MK4 Golf)
* 12V automotive, 300W (~25A), high-side P-channel, heatsink-free
* ---------------------------------------------------------------
* This netlist documents every node/connection exactly. Use it to
* recreate or verify the schematic in EasyEDA/KiCad if the native
* JSON import needs cleanup.
*
* NODE GLOSSARY
*   BATTP   raw battery +            VRAIL   protected +12V rail
*   VCC     control/enable (J_EXT)   V555    regulated 555 supply
*   GND     ground (star at 555)     PWM     PWM signal (J_EXT pin2)
*   GATE    common gate of Q1..Q4    GDRV    TC4420 output / gate drive node
*   O555    555 output (pin3)        RSTN    555 RESET (pin4)
*   FANP    fan +                    FANN    fan - (=GND)
*   FULLSP  full-speed select line   PWMEN   pwm-enable select line
*   NA      after-fuse node          NB      after ideal-diode node
*   THTR    555 THR/TRG node         DISC    555 discharge node
*   lvlout  QLVL collector / TC4420 IN (inverted 555)
*
* === STAGE 1: INPUT PROTECTION + INRUSH ===
F1     BATTP NA        FUSE_30A
XID    NA NB GND       IDEAL_DIODE_LM74700   ; controller + Q_ID pass FET
DTVS1  GND NB          TVS_5KP24A            ; load-dump clamp
L1     NB VRAIL        2.2u                  ; load-dump series choke
RNTC   NB VRAIL        2.5                   ; inrush NTC (SL22 2R5)
SK1    NB VRAIL        RELAY_BYPASS          ; shorts NTC after ~200ms
CIN    VRAIL GND       470u                  ; input bulk
CIN2   VRAIL GND       1u                    ; input HF bypass
*
* === STAGE 2: 555 PWM OSCILLATOR (TLC555) ===
RREG   VRAIL V555      470
DZREG  GND V555        ZENER_12V             ; cathode->V555
CBYP   V555 GND        100n                  ; at pin8
XU1    V555 GND RSTN THTR THTR O555 DISC ctrl  TLC555
+      ; pin map: 8=VCC 1=GND 4=RST 6=THR 2=TRG 3=OUT 7=DISC 5=CTRL(ctrl)
CCTRL  ctrl GND        100n                  ; pin5 noise bypass
R1     V555 DISC       1k                    ; timing R
CT     THTR GND        10n                   ; timing C (~25kHz)
DA     DISC wA         D_1N4148              ; charge steering
DB     wB THTR         D_1N4148              ; discharge steering
RV1A   wA wiper        5k                    ; pot half A
RV1B   wiper wB        5k                    ; pot half B (10k total)
*
* === STAGE 3: CONTROL LOGIC (external 3-wire + mode header) ===
* J_EXT: 1=VCC 2=PWM 3=GND
* JP_MAIN removed => strap VRAIL to VCC (permanently live). Modeled as RJP.
RJP    VRAIL VCC       0                     ; JP_MAIN removed (0R strap)
RPULL  VCC MODE        100k                  ; defines open state
* J_MODE 3-pin: pin1=FULLSP, centre=GND, pin2=PWMEN
* Ground pin1 (FULL SPEED): force gate low + hold 555 in reset (interlock)
* Ground pin2 (PWM): release RSTN (R_pull pulls high) -> 555 runs
QRST   RSTN rstb GND   QNPN_MMBT3904         ; collector=RSTN emitter=GND
RB0    FULLSP rstb     10k                   ; full-speed drives RST low
* NOTE: full-speed = FETs ON. For a P-FET, ON means GATE pulled BELOW VRAIL.
*       Force-on is implemented by pulling GDRV/GATE low via QFON to GND:
QFON   GATE ffb GND    QNPN_MMBT3904         ; collector=GATE emitter=GND (pull gate low=ON)
RFON   FULLSP ffb      10k
RMODE1 FULLSP MODE      0                     ; J_MODE pin1 node = MODE-derived
RMODE2 PWMEN  RSTN      0                     ; J_MODE pin2 releases reset
*
* === STAGE 4: GATE DRIVE (TC4420 default — option B, high-side P-channel) ===
* Option B: RPU pulls GDRV to VRAIL (P-FETs OFF, fail-safe).
* TC4420 (non-inverting, VDD=VRAIL) sinks GDRV to GND for ON.
* QLVL inverts the 555 output: 555 HIGH -> lvlout LOW -> TC4420 sinks GDRV -> P-FETs ON.
RPU    VRAIL GDRV      4.7k                  ; pull gate to rail = OFF (fail-safe)
RB1    O555 lvlb       1k                    ; base drive for QLVL input inverter
QLVL   lvlout lvlb GND QNPN_MMBT3904        ; inverter: 555 high -> Q_lvl on -> lvlout pulled LOW
RPDI   VRAIL lvlout    10k                   ; pull-up for QLVL collector / TC4420 IN node
* TC4420 (U_drv): IN=lvlout (TC4420 IN), OUT=GDRV, VDD=VRAIL, GND=GND
* lvlout LOW  -> TC4420 sinks GDRV to ~GND -> Vgs = GND-VRAIL = -12V -> P-FETs ON
* lvlout HIGH -> TC4420 drives GDRV to VRAIL -> Vgs = 0V -> P-FETs OFF (RPU holds too)
XDRV   lvlout GDRV VRAIL GND   TC4420       ; default gate driver (option B)
* --- DNF alternates (discrete output totem pole; fit ONLY if NOT using XDRV/TC4420) ---
*QP     GDRV ppb VRAIL  QPNP_MMBT3906       ; DNF: discrete push-pull source (alternate)
*QN     GDRV ppb GND    QNPN_MMBT3904       ; DNF: discrete push-pull sink (alternate)
DZG    GATE VRAIL      ZENER_12V             ; Vgs clamp (cathode->VRAIL)
RGS    GATE VRAIL      10k                   ; fail-safe OFF pulldown to source
RG1    GDRV g1         4.7
RG2    GDRV g2         4.7
RG3    GDRV g3         4.7
RG4    GDRV g4         4.7
*
* === STAGE 5: POWER SWITCH + FLYBACK + SNUBBER ===
* P-channel: source=VRAIL, gate=g1..g4, drain=FANP
M1     FANP g1 VRAIL VRAIL  PMOS_SIR464DP
M2     FANP g2 VRAIL VRAIL  PMOS_SIR464DP
M3     FANP g3 VRAIL VRAIL  PMOS_SIR464DP
M4     FANP g4 VRAIL VRAIL  PMOS_SIR464DP
CB1    VRAIL GND       2200u
CB2    VRAIL GND       2200u
CB3    VRAIL GND       2200u
CB4    VRAIL GND       2200u
RS     FANP sn         10                    ; snubber R
CS     sn GND          100n                  ; snubber C
DFLY   GND FANP        D_SK54                ; freewheel: anode=GND cathode=FANP
DMOT   FANN FANP       D_SK54                ; motor-side flyback across fan
* J_FAN: 1=FANP 2=FANN ; FANN tied to GND
RFANN  FANN GND        0
*
* === SUBCIRCUIT / MODEL STUBS (fill from datasheets for simulation) ===
* .model PMOS_SIR464DP PMOS (Vto=-2 Rd=3m ...)
* .model D_SK54 D (...)
* .model D_1N4148 D (...)
* .subckt TLC555 VCC GND RST THR TRG OUT DISC CTRL ... .ends
* .subckt IDEAL_DIODE_LM74700 IN OUT GND ... .ends
* .subckt TC4420 IN OUT VDD GND ... .ends  ; 6A non-inverting gate driver
* ---------------------------------------------------------------
* PWM line behaviour: FULL SPEED -> PWM held at VCC (100%); PWM mode ->
* ~25kHz signal. 555 pin1 permanently grounded; enable via RESET (pin4).
.end
